US09056859B2
Step B: 1-tert-butyl 4-(9H-fluoren-9-ylmethyl) 2-hydroxypiperazine-1,4-dicarboxylate
In a pre-dried RB flask, 1-tert-butyl 4-(9H-fluoren-9-ylmethyl) 2-oxopiperazine-1,4-dicarboxylate (6.5 g, 15.39 mmol) was dissolved in CH2Cl2 (150 mL) and THF (15 mL) under N2 and was cooled down to −78° C. DIBAL-H (23.08 mL, 23.08 mmol) was added slowly. Let reaction stir at −78° C. for 2 hours. Then saturated Rochelle's salt water solution (150 mL) was added to quenched reaction. Reaction was slowly warmed up to room temperature. Then it was passed through a Celite® pad. Filtering pad was washed with ether (100 mL×2). Then layers were separated and aq. layer was extracted with 50 mL of EtOAc twice. Organic phases were combined and were washed with water and brine (50 mL) respectively. Then it was passed anhydrous Na2SO4. Concentration gave crude product as white solid that was used directly in next step. LC/MS: (M+23)+=447.16

reactant | 1-tert-butyl 4-(9H-fluoren-9-ylmethyl) 2-oxopiperazine-1,4-dicarboxylate | 15.39 mmol, 6.5 g | O=C1N(CCN(C1)C(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)C(=O)OC(C)(C)C | C24H26N2O5
reactant | THF | 15 mL | C1CCOC1 | C4H8O
reactant | DIBAL-H | 23.08 mmol, 23.08 mL | CC(C)C[AlH]CC(C)C
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
product | 1-tert-butyl 4-(9H-fluoren-9-ylmethyl) 2-hydroxypiperazine-1,4-dicarboxylate | OC1N(CCN(C1)C(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)C(=O)OC(C)(C)C | C24H28N2O5
